US07638541B2
Step 2: 5-Ethyl-2-{3-[4-(4-tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidin-1-yl}-pyrimidine
A mixture of 3-[4-(4-Tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidine hydrochloride (150 mg, 0.407 mmol), 2-chloropyrimidine (0.074 mL, 2.0 eq.) and NaHCO3 (171 mg, 2.03 mmol) in DMF (5 mL) was heated at 90° C. for 4 hours. Water was added and the solution was extracted with ethyl acetate, separated, dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel (50:50 EtOAc/hexanes) to afford the desired product. 1H NMR (CDCl3): δ 8.91 (1H, s), 8.19 (2H, s), 7.63 (2H, m), 7.26 (1H, s), 7.17 (2H, m), 5.25 (2H, s), 4.97 (1H, m), 4.62 (1H, m), 3.25 (2H, m), 3.07 (1H, m), 2.46 (2H, q), 2.28 (1H, m), 1.88 (2H, m), 1.68 (1H, m), 1.20 (3H, t).

reactant | 3-[4-(4-Tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidine hydrochloride | 0.407 mmol, 150 mg | Cl.N1(N=NN=C1)C1=CC=C(OCC=2N=C(SC2)C2CNCCC2)C=C1
reactant | 2-chloropyrimidine | 0.074 mL, 2.0 eq. | ClC1=NC=CC=N1 | C4H3ClN2
reactant | NaHCO3 | 2.03 mmol, 171 mg | C(=O)(O)[O-].[Na+]
reactant | Water | O | H2O
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Ethyl-2-{3-[4-(4-tetrazol-1-yl-phenoxymethyl)-thiazol-2-yl]-piperidin-1-yl}-pyrimidine | C(C)C=1C=NC(=NC1)N1CC(CCC1)C=1SC=C(N1)COC1=CC=C(C=C1)N1N=NN=C1 | C22H24N8OS
